US06087380
c) Methyl 5-[2-(4-cyanophenyl)ethylcarbonylamino]-6-methylamino-nicotinate
A solution of 2.6 g (15 mMol) of 3-(4-cyanophenyl)propionic acid in 25 ml of absolute tetrahydrofuran was mixed with 2.4 g (15 mMol) of N,N'-carbonyldiimidazole and stirred for 20 minutes at room temperature. Then the imidazolide was mixed with a solution of 2.3 g (13 mMol) of methyl 5-amino-6-methylamino-nicotinate in 25 ml of dimethylformamide and heated for 3 hours to 100° C. After the removal of the solvent in vacuo the crude product obtained was taken up in ethyl acetate, the organic phase was washed with water and after drying over sodium sulphate it was again freed from solvent. The residue obtained was purified by flash chromatography (silica gel; gradient: dichloromethane to dichloromethane/ethanol=19:1). Yield: 2.1 g (50% of theory) of beige solid Rf value: 0.54 (silica gel; ethyl acetate/ethanol/ammonia=90:10:1)

reactant | 3-(4-cyanophenyl)propionic acid | 15 mMol, 2.6 g | C(#N)C1=CC=C(C=C1)CCC(=O)O | C10H9NO2
reactant | imidazolide | [N-]1C=NC=C1
reactant | methyl 5-amino-6-methylamino-nicotinate | 13 mMol, 2.3 g | NC=1C(=NC=C(C(=O)OC)C1)NC | C8H11N3O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 5-[2-(4-cyanophenyl)ethylcarbonylamino]-6-methylamino-nicotinate | C(#N)C1=CC=C(C=C1)CCC(=O)NC=1C(=NC=C(C(=O)OC)C1)NC | C18H18N4O3
